US06242443B1
7-Chloro-3-(3,3-diphenylpropylamino)-4H-1,2,4-benzothiadiazine 1,1-dioxide
Starting from 3,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide (300 mg; 1.19 mmol) and 3,3-diphenylpropylamine (1.5 g; 7.1 mmol) with the use of same procedure as in example 21 300 mg (59%) of the title compound was prepared; 1H-NMR (DMSO-d6) ppm; 10.7 (s, 1H, NH), 7.68 (d, 1H, H-8), 7.60 (dd, 1H, H-5), 7.25 (m, 11H, ), 4.1 (t, 1H, CH), 3.11 (q, 2H, CH2), 2.35 (q, 2H, CH2); MS:EI/70eV: 425 (M+), 245, 193, 180, 165, 152, 115.

reactant | 3,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 1.19 mmol, 300 mg | ClC1=NS(C2=C(N1)C=CC(=C2)Cl)(=O)=O | C7H4Cl2N2O2S
reactant | 3,3-diphenylpropylamine | 7.1 mmol, 1.5 g | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
product | 7-Chloro-3-(3,3-diphenylpropylamino)-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(NC(=NS2(=O)=O)NCCC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C22H20ClN3O2S
